US08859591B2
A mixture of 4-(trifluoromethyl)-1H-imidazole (198 mg, 1.46 mmol), 1-fluoro-2-methyl-4-nitrobenzene (216 mg, 1.53 mmol) and potassium carbonate (402 mg, 2.91 mmol) in acetonitrile (1.5 mL) was heated to 85° C. for 24 hours. The mixture was diluted with water and saturated ammonium chloride and was extracted with ethyl acetate twice. The combined organic layers were dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (0-50% ethyl acetate in heptane), gave 1-(2-methyl-4-nitrophenyl)-4-(trifluoromethyl)-1H-imidazole. 1H NMR (500 MHz, CDCl3, δ): 8.30 (d, J=2.44 Hz, 1H), 8.21-8.25 (m, 1H), 7.70 (s, 1H), 7.45-7.49 (m, 2H), 2.38 (s, 3H).

reactant | 4-(trifluoromethyl)-1H-imidazole | 1.46 mmol, 198 mg | FC(C=1N=CNC1)(F)F | C4H3F3N2
reactant | 1-fluoro-2-methyl-4-nitrobenzene | 1.53 mmol, 216 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | potassium carbonate | 2.91 mmol, 402 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-(2-methyl-4-nitrophenyl)-4-(trifluoromethyl)-1H-imidazole | CC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)C(F)(F)F | C11H8F3N3O2
